Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Vancomycin / Iodine-Iodine Containing / Meropenem / Ceftriaxone 
/ Ciprofloxacin / Flagyl / Levaquin / Aztreonam / moxifloxacin / 
Bactrim
 
Attending: ___.
 
Chief Complaint:
fatigue, bradycardia
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yo F with a history of coronary artery disease s/p inferior 
MI in ___ treated with DES to RCA and CABG (LIMA/LAD), 
HFmrEF (previously LVEF 50%, most recently 35% on last TTE), 
paroxysmal atrial fibrillation on xarelto and metoprolol, mild 
mitral regurgitation, aortic aneurysm status post EVAR, history 
of JAK2+ myeloproliferative disorder, AML s/p alloHSCT in ___ 
c/b GVHD (pulmonary) on prednisone with recent admission for 
diarrhea and dehydration who presents with fatigue and concern 
for low heart rate on home monitor. 

The patient was admitted from ___ was diarrhea, which 
improved without infectious source. This was attributed to 
metformin, and her dose was subsequently capped at 500 mg BID. 
She felt much better after this discharge, and has been in 
general feeling well subsequently without any focal complaint 
beyond some fatigue and vision issues in the setting of an eye 
condition managed by an ophthalmologist. She cannot clarify 
further, but thinks all her vision issues are related to this. 

On the morning of presentation she checked her BP and HR as she 
does every day. On her blood pressure automatic cuff, the 
readings including 134/68 (HR 44), 144/57 (91), 149/90 (48), and 
144/71 (84) in succession. Her daughter, a medical assistant 
urged her to go in to get evaluated, which made her anxious and 
around this time she began to feel unlike herself. She cannot 
clarify with any more details, but does not feel this sensation 
currently. She thus presented to the ___ ED. 

On arrival to the ED, initial vitals were 98 73 149/88 16 99% RA 
- labs significant for BUN/Cr of ___, lactate of 2.8, U/A 
unremarkable, TropT < 0.01, WBC of 12.5 with 0.9%nRBC, H/H 
11.6/38.5, PLT 591, TSH PND - CXR with no acute cardiopulmonary 
process - patient was given 500 cc of IVF - blood and urine 
cultures were drawn and pending - ECG showed NSR with frequent 
VPBs, 85 bpm with inferior Q waves and R in V1 suggesting prior 
inferior/posterior infarct. Similar to prior regarding Q waves. 
- cardiology was consulted given concern for bradycardia, and 
they felt that the low pulse reading may be related to bigeminy 
and inability of automated cuff to appropriately detect heart 
rate, though recommended admission for monitoring with telemetry 
- vitals prior to transfer were 97.9, 67, 120/60 16 96% RA

On arrival to the floor, patient denies fevers/chills, night 
sweats, headache, dizziness/lightheadedness, weakness/numbnesss, 
shortness of breath, cough, hemoptysis, chest pain, 
palpitations, abdominal pain, nausea/vomiting, diarrhea, 
hematemesis, hematochezia/melena, dysuria, hematuria, and new 
rashes. She does note edema around her ankles at the end of the 
day which resolves by the time she wakes up in the morning. No 
orthopnea, PND, difficulty laying flat. 
 
Past Medical History:
- AML diagnosed ___ on routine bloodwork showing pancytopenia; 
bone marrow biopsy showed myelodysplasia without cytogenetic 
abnormalities  
- Repeat bone marrow biopsy showed acute erythroleukemia  
- Admitted ___ for induction 7+3 with cytarabine and 
idarubicin, day 14 marrow showed no blasts  
- ___ allogeneic transplantation from an HLA matched sibling 
donor with pentostatin/TBI in ___ c/b mild GVHD  
- Post-transplant course complicated by STEMI ___ with DES to 
RCA ___ and CABG (LIMA-LAD) ___  
- Complicated by GVHD of the skin and lungs

PAST MEDICAL HISTORY:
- CAD s/p STEMI ___ with DES to RCA ___ and CABG (LIMA-LAD) 
___
- Afib on Xarelto
- Diverticulitis, hx of perforated diverticulum ___ course 
complicated by multiple abdominal abscesses; sigmoidostomy with 
___ pouch and colostomy; reversed ___
- CHF with EF 40-45%
- Hypertension
- Hypercholesterolemia
- GERD
- Type II Diabetes Mellitus
- Diverticulosis  
- Occasional Bronchospasm
- History of SVC clot ___ PORT (s/p course of lovenox)
- History of C.Diff ___ & ___
- VRE
- Shingles
- Asthma
- Basal Cell Carcinoma s/p electrodessication and curettage on  
___
- s/p tonsillectomy at the age of ___
- D&C for question of some polyps back in ___
- Hospitalization for pneumonia ___ - ___
- Adrenal Insufficiency
 
Social History:
___
Family History:
Mother: CVA.
Father: ___ cancer.
Sister: HTN, ___. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 97.5 138/64 78 18 95% RA
GENERAL: Pleasant woman, in no distress, sitting in bed
comfortably.
HEENT: Anicteric, PERLL, OP clear.
CARDIAC: RRR, normal s1/s2, no m/r/g. No JVD
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi.
ABD: Soft, non-tender, non-distended, normal bowel sounds, no
hepatomegaly, no splenomegaly.
EXT: Warm, well perfused, no lower extremity edema, erythema or
tenderness.
NEURO: A&Ox3, good attention and linear thought, CN II-XII
intact. Vision grossly intact as are visual fields. Strength 
full
throughout. Sensation to light touch intact.
SKIN: No significant rashes.

DISCHARGE PHYSICAL EXAM:
GENERAL: Elderly female, NAD, A/Ox3.
HEAD: NC/AT, conjunctiva clear, sclera anicteric, MMM.
NECK: Supple, no JVD.
CARDIAC: RRR, S1S2 w/o m/r/g.
RESPIRATORY: CTABL. 
ABDOMEN: Soft, NT, +BS.
EXTREMITIES: Warm, no edema. 
 
Pertinent Results:
ADMISSION:
===========
___ 12:24PM BLOOD Neuts-58.1 ___ Monos-11.2 Eos-1.1 
Baso-0.7 NRBC-0.9* Im ___ AbsNeut-7.29* AbsLymp-3.52 
AbsMono-1.40* AbsEos-0.14 AbsBaso-0.09*
___ 12:24PM BLOOD WBC-12.5* RBC-4.44 Hgb-11.6 Hct-38.5 
MCV-87 MCH-26.1 MCHC-30.1* RDW-19.9* RDWSD-62.2* Plt ___
___ 12:24PM BLOOD Plt ___
___ 12:24PM BLOOD Glucose-165* UreaN-22* Creat-1.1 Na-133* 
K-7.6* Cl-105 HCO3-20* AnGap-8*
___ 04:24PM BLOOD ALT-17 AST-15 AlkPhos-47 TotBili-0.3
___ 12:24PM BLOOD Calcium-8.9 Phos-2.7 Mg-1.7
___ 04:24PM BLOOD TSH-2.7
___ 12:44PM BLOOD Lactate-2.8*

DISCAHRGE:
==========
___ 06:25AM BLOOD WBC-9.6 RBC-4.18 Hgb-10.8* Hct-36.7 
MCV-88 MCH-25.8* MCHC-29.4* RDW-19.4* RDWSD-61.8* Plt ___
___ 06:25AM BLOOD Neuts-50.3 ___ Monos-12.3 Eos-2.0 
Baso-0.8 NRBC-1.0* Im ___ AbsNeut-4.81 AbsLymp-3.23 
AbsMono-1.18* AbsEos-0.19 AbsBaso-0.08
___ 06:25AM BLOOD Plt ___
___ 06:25AM BLOOD Glucose-180* UreaN-16 Creat-1.0 Na-143 
K-4.8 Cl-105 HCO3-26 AnGap-12
___ 06:25AM BLOOD ALT-17 AST-13 AlkPhos-49 TotBili-0.4
___ 06:25AM BLOOD Albumin-3.3* Calcium-9.2 Phos-2.6* Mg-1.7
___ 06:49AM BLOOD Lactate-1.8
 
Brief Hospital Course:
PATIENT SUMMARY FOR ADMISION:
==============================
Ms. ___ is a ___ w/ JAK2+ MPD with history of AML s/p 
alloSCT ___ w/ subsequent development of JAK2+ 
myeloproliferative disorder, further complicated by pulmonary 
GVHD, also w/ CAD & MI s/p w/ DES to RCA and CABG ___, 
paroxysmal atrial fibrillation, HFrEF (EF 35% ___, and 
thoracic aortic aneurysm s/p EVAR ___, who presents w/ 
bradycardia & fatigue. 

The patient was in her normal state of health when on the 
morning of presentation she checked her BP and HR as she does 
every day. On her blood pressure automatic cuff, the readings 
including 134/68 (HR 44), 144/57 (91), 149/90 (48), and 144/71 
(84) in succession. Her daughter urged her to call ___ which 
made her anxious and around this time she began to feel unlike 
herself. She thus presented to ___ ED.

She was evaluated by Cardiology in the ED who felt that she was 
having ectopic beats that limited ability for device to sense 
heart rate. 

On ED evaluation by Cardiology, her EKG and telemetry was NSR w/ 
VPBs. She was euvolemic on exam. She was admitted for 
monitoring. She did not have nay further telemetry events or 
symptoms. She was given ___ of Hearts monitor and discharged 
w/ close Cardiology follow-up. 

TRANSITIONAL ISSUES:
====================
[] Cardiology follow-up for continued management of heart 
failure and atrial fibrillation. 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Acyclovir 400 mg PO Q12H 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. Azithromycin 250 mg PO 3X/WEEK (___) 
5. Cyanocobalamin 500 mcg PO DAILY 
6. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
7. Hydroxyurea 500 mg PO 3X/WEEK (___) 
8. Levothyroxine Sodium 25 mcg PO DAILY 
9. LORazepam 0.25 mg PO Q4H:PRN nausea/vomiting/anxiety/insomnia 

10. Metoprolol Succinate XL 50 mg PO DAILY 
11. Montelukast 10 mg PO DAILY 
12. PredniSONE 10 mg PO DAILY 
13. Rivaroxaban 20 mg PO DINNER 
14. Vitamin D ___ UNIT PO DAILY 
15. Albuterol Inhaler ___ PUFF IH Q4H:PRN shortness of 
breath/wheezing 
16. Calcium Carbonate 1500 mg PO DAILY:PRN heartburn 
17. esomeprazole magnesium 20 mg oral BID 
18. Famotidine 20 mg PO BID:PRN dyspepsia 
19. Metoprolol Tartrate 25 mg PO DAILY:PRN palpitations 
20. umeclidinium 62.5 mcg/actuation inhalation DAILY 
21. MetFORMIN (Glucophage) 500 mg PO BID 

 
Discharge Medications:
1.  Acyclovir 400 mg PO Q12H  
2.  Albuterol Inhaler ___ PUFF IH Q4H:PRN shortness of 
breath/wheezing  
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 80 mg PO QPM  
5.  Azithromycin 250 mg PO 3X/WEEK (___)  
6.  Calcium Carbonate 1500 mg PO DAILY:PRN heartburn  
7.  Cyanocobalamin 500 mcg PO DAILY  
8.  esomeprazole magnesium 20 mg oral BID  
9.  Famotidine 20 mg PO BID:PRN dyspepsia  
10.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
11.  Hydroxyurea 500 mg PO 3X/WEEK (___)  
12.  Levothyroxine Sodium 25 mcg PO DAILY  
13.  LORazepam 0.25 mg PO Q4H:PRN 
nausea/vomiting/anxiety/insomnia  
14.  MetFORMIN (Glucophage) 500 mg PO BID  
15.  Metoprolol Succinate XL 50 mg PO DAILY  
16.  Metoprolol Tartrate 25 mg PO DAILY:PRN palpitations  
17.  Montelukast 10 mg PO DAILY  
18.  PredniSONE 10 mg PO DAILY  
19.  Rivaroxaban 20 mg PO DINNER  
20.  umeclidinium 62.5 mcg/actuation inhalation DAILY  
21.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
bradycardia
fatigue
paroxysmal atrial fibrillation

SECONDARY:
heart failure with reduced ejection fraction
coronary artery disease
AML
MPD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you!

WHY WERE YOU ADMITTED?
-You had a slow heart rate at home and you also felt tired.

WHAT HAPPENED WHEN YOU WERE HERE?
-Our Cardiology team evaluated you and felt that your heart rate 
was normal and your heart was functioning properly.  

WHAT SHOULD YOU DO WHEN YOU GO HOME?
-Please continue to take all of your medications as prescribed.
-Please go to all of your appointments as below. 
-Call ___ with any symptoms that concern you, especially chest 
pain or fast-beating heart. 
-You should weigh yourself every day at the same time wearing 
the same thing.  For example, you can do this first thing in the 
morning when you wake up.  If you gain more than 2 pounds in 1 
day you should call your Cardiologist because this may mean that 
you are gaining fluid.
-Wear your heart monitor and follow directions about reporting 
results. 

We wish you the best!

Sincerely,
Your ___ Medicine Team
 
Followup Instructions:
___